### PR TITLE
[Merged by Bors] - feat (LinearAlgebra/BilinearMap): restrict scalars and range of a linear map

### PR DESCRIPTION
**Pull request by ScottCarnahan**
This PR introduces `restrictScalarsRange`, which is a linear map that restricts the scalars and range of a linear map. The function previously named `restrictScalarsRange` is about bilinear maps, and is renamed `restrictScalarsRange₂`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/BilinearMap.lean [hunk 1]
```diff
@@ -429,6 +429,49 @@ open Function
...
+  [AddCommMonoid M'] [Module S M'] [AddCommMonoid P'] [Module S P']
+
+variable (i : M' →ₗ[S] M) (k : P' →ₗ[S] P) (hk : Injective k)
+  (f : M →ₗ[R] P) (hf : ∀ m, f (i m) ∈ LinearMap.range k)
+
+include hf in
+theorem restrictScalars_in_range (m : M') : (f.restrictScalars S).comp i m ∈ Set.range k := by
+  use (hf m).choose
+  rw [(hf m).choose_spec, comp_apply, restrictScalars_apply]
+
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/BilinearMap.lean:446]: The proof here can be just `exact hf m`
```suggestion
```
so I think I'd just inline the below as indicated.

File: Mathlib/LinearAlgebra/BilinearMap.lean [hunk 2]
```diff
@@ -429,6 +429,49 @@ open Function
...
+/-- Restrict the scalars and range of a linear map. -/
+noncomputable def restrictScalarsRange :
+    M' →ₗ[S] P' :=
+  ((f.restrictScalars S).comp i).codLift k hk (restrictScalars_in_range i k f hf)
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/BilinearMap.lean:450]:
```suggestion
  ((f.restrictScalars S).comp i).codLift k hk hf
```

File: Mathlib/LinearAlgebra/BilinearMap.lean [hunk 3]
```diff
@@ -429,6 +429,49 @@ open Function
...
+
+@[simp]
+lemma restrictScalarsRange_apply (m : M') :
+    k (restrictScalarsRange i k hk f hf m) = f (i m) := by
+  have : k (restrictScalarsRange i k hk f hf m) =
+      (k ∘ₗ ((f.restrictScalars S).comp i).codLift k hk
+        (restrictScalars_in_range i k f hf)) m :=
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/BilinearMap.lean:457]:
```suggestion
      (k ∘ₗ ((f.restrictScalars S).comp i).codLift k hk hf) m :=
```

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+
